US03932429
0.62 g of phenylacetyl chloride is added dropwise under ice-cooling to a mixture of 0.35 g of 1-(3-hydroxyphenyl)7-methyl-6-azabicyclo[3,2,1]octane, 1 ml of triethylamine and 7 ml of methylenedichloride. The mixture is stirred at room temperature for 20 hours. Then, the mixture is concentrated under reduced pressure. Water is added to the residue, and the aqueous mixture is extracted with benzene. The benzene extract is washed with diluted hydrochloric acid, water, aqueous sodium bicarbonate and water, successively. The benzene extract is dried and evaporated to remove solvent. The residue thus obtained is dissolved in 12 ml of tetrahydrofuran. 0.6 g of lithium aluminium hydride is added to the tetrahydrofuran solution, and said solution is refluxed for 1.5 hours. After cooling, diluted hydrochloric acid is added to the reaction solution to decompose lithium aluminium hydride. Then, the reaction solution is made alkaline with aqueous ammonia and extracted with chloroform. The chloroform extract is washed with water, dried and then evaporated to remove solvent. The residue is dissolved in 5 ml of chloroform. The chloroform solution is poured onto a column of 20 g of silica gel. Then, the column is eluted with a mixture of 300 ml of chloroform and 50 ml of methanol, and the effluent is evaporated to remove solvent. Methanolic hydrogen chloride is added to the residue in ether, and the crystalline precipitate is collected by filtration. The precipitate is recrystallized from acetone. 0.09 g of 1-(3-hydroxyphenyl)-6-phenethyl- 7-methyl-6-azabicyclo[3,2,1]octane hydrochloride is obtained. M.p. 231°-233°C.

reactant | phenylacetyl chloride | 0.62 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 1-(3-hydroxyphenyl)7-methyl-6-azabicyclo[3,2,1]octane | 0.35 g | OC=1C=C(C=CC1)C12CCCC(NC1C)C2 | C14H19NO
reactant | lithium aluminium hydride | 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | methylenedichloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1-(3-hydroxyphenyl)-6-phenethyl- 7-methyl-6-azabicyclo[3,2,1]octane hydrochloride | 0.09 g | Cl.OC=1C=C(C=CC1)C12CCCC(N(C1C)CCC1=CC=CC=C1)C2 | InChI=1S/C22H27NO.ClH/c1-17-22(19-9-5-11-21(24)15-19)13-6-10-20(16-22)23(17)14-12-18-7-3-2-4-8-18;/h2-5,7-9,11,15,17,20,24H,6,10,12-14,16H2,1H3;1H
